US05476875
1.25 g of boron tribromide are added -20° to a suspension of 392.3 mg of N-(6-aminohexyl)-4-hydroxy-5-nitro-m-anisamide hydrobromide in 25 ml of dry methylene chloride. After the addition the mixture is stirred at -20° for 1 hour and subsequently at room temperature for 17 hours. The reaction mixture is then evaporated, the residue is treated with 10 ml of water and stirred at room temperature for 1 hour. After evaporating the water the residue is chromatographed on Sephadex LH 20 with toluene/ethanol (1:1). There is obtained N-6-aminohexyl-3,4-dihydroxy-5-nitrobenzamide hydrobromide of m.p. 205°-207° (from ethanol).

reactant | boron tribromide | 1.25 g | B(Br)(Br)Br | BBr3
reactant | N-(6-aminohexyl)-4-hydroxy-5-nitro-m-anisamide hydrobromide | 392.3 mg | Br.NCCCCCCNC(C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC)=O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-6-aminohexyl-3,4-dihydroxy-5-nitrobenzamide hydrobromide | Br.NCCCCCCNC(C1=CC(=C(C(=C1)[N+](=O)[O-])O)O)=O | InChI=1S/C13H19N3O5.BrH/c14-5-3-1-2-4-6-15-13(19)9-7-10(16(20)21)12(18)11(17)8-9;/h7-8,17-18H,1-6,14H2,(H,15,19);1H
